US08076516B2
Preparation of 1-(3-(2-aminoethoxy)phenyl)-4-methylpentan-3-ol
A solution of 1-(3-(2-Aminoethoxy)phenyl)-4-methylpent-1-yn-3-ol (0.56 g, 2.4 mmol) in EtOH (30 mL) was degassed and purged with nitrogen. To this was added Pd on C (0.05 g, 10%). The flask was evacuated and purged with hydrogen thrice. This suspension was then stirred at room temperature under hydrogen balloon for overnight. The reaction mixture was filtered through a pad of Celite and the filter cake was washed with ethanol. The filtrate was concentrated to afford Example 1. Yield (0.38, 66%): 1H NMR (400 MHz, DMSO-d6) δ 7.14-7.18 (m, 1H), 6.71-6.76 (m, 3H), 3.91 (t, J=5.6 Hz, 2H), 3.12-3.17 (m, 1H), 2.89 (t, J=5.6 Hz, 2H), 2.65-2.73 (m, 1H), 2.46-2.50 (m, 1H), 1.46-1.64 (m, 3H), 0.8 (t, J=5.6 Hz, 2H). 13C NMR (100 MHz, DMSO-d6) δ 159.0, 144.8, 129.7, 121.1, 115.0, 112.0, 74.2, 69.6, 41.1, 36.2, 33.7, 32.4, 19.4, 18.0. MS: 238 [M+1]+.

reactant | 1-(3-(2-Aminoethoxy)phenyl)-4-methylpent-1-yn-3-ol | 2.4 mmol, 0.56 g | NCCOC=1C=C(C=CC1)C#CC(C(C)C)O | C14H19NO2
solvent | EtOH | 30 mL | CCO | C2H6O
product | 1-(3-(2-aminoethoxy)phenyl)-4-methylpentan-3-ol | NCCOC=1C=C(C=CC1)CCC(C(C)C)O | C14H23NO2
